US06919356B2
Part I. Preparation of methanesulfonic acid trans-4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl ester
A solution of -{4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-yl}-methanol (105 mg, 294 μmol) and triethylamine (62 μL, 442 μmol) in dichloromethane (1 mL) was stirred on an ice bath and treated with a solution of methanesulfonyl chloride (25 μL, 320 μmol) in dichloromethane (0.5 mL). After 1.75 hours, the mixture was concentrated and the residue was dissolved in ethyl acetate. The suspension was filtered, the solid was rinsed with ethyl acetate, and the filtrate was concentrated under vacuum to provide a yellowish gum (139 mg) which was used without purification. 1H NMR (300 MHz, CDCl3) δ7.32 (m, 5H), 7.17 (m, 2H), 6.99 (t, J=9 Hz, 2H), 4.57 (dd, J=10, 3 Hz, 1H), 4.29 (m, 1H), 3.72 (d, J=13 Hz, 1H), 3.50 (d, J=13 Hz, 1H), 3.4-3.1 (m, 2H), 3.00 (s, 3H), 2.83 (m, 2H), 2.70 (m, 2H), 2.48 (m, 1H), 2.35 (m, 1H), 2.22 (s, 3H), 2.07 (m, 2H), 2.0-1.7 (m, 2H).

reactant | {4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-yl}-methanol | 294 μmol, 105 mg | C(C1=CC=CC=C1)N(C1C(CN(CC1)CCC1=CC=C(C=C1)F)CO)C | C22H29FN2O
reactant | triethylamine | 442 μmol, 62 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 320 μmol, 25 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | methanesulfonic acid trans-4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl ester | 139 mg | C(C1=CC=CC=C1)N([C@H]1[C@@H](CN(CC1)CCC1=CC=C(C=C1)F)COS(=O)(=O)C)C | C23H31FN2O3S
